US08802864B2
b) 4-(4-bromo-2,6-difluorophenyl)-5-{[(3S)-1-(cyclopropylcarbonyl)-3-pyrrolidinyl]methyl}-2,4-dihydro-3H-1,2,4-triazol-3-one
To a round bottom flask, N-(4-bromo-2,6-difluorophenyl)-2-{[(3S)-1-(cyclopropylcarbonyl)-3-pyrrolidinyl]acetyl}hydrazinecarboxamide (2860 mg, 6.42 mmol) and potassium carbonate (4000 mg, 28.9 mmol) were added and suspended in water (200 mL). The mixture was refluxed for 16 h at 115° C. Analysis by LCMS indicated consumption of starting material and formation of desired product and by-products related to the starting material. The solution was neutralized to pH=7 with 1N aq HCl and 150 mL of ethyl acetate was added. The aqueous phase was extracted with ethyl acetate (3×) and the combined organic layers were washed with brine, dried over sodium sulfate, and concentrated in vacuo. Purification of the residue by silica gel chromatography (0-20% isopropanol/ethyl acetate) provided the title product as a white solid (360 mg, 13%). MS(ES)+ m/e 426.9, 428.6 [M+H]+.

reactant | N-(4-bromo-2,6-difluorophenyl)-2-{[(3S)-1-(cyclopropylcarbonyl)-3-pyrrolidinyl]acetyl}hydrazinecarboxamide | 6.42 mmol, 2860 mg | BrC1=CC(=C(C(=C1)F)NC(=O)NNC(C[C@H]1CN(CC1)C(=O)C1CC1)=O)F | C17H19BrF2N4O3
reactant | potassium carbonate | 28.9 mmol, 4000 mg | C([O-])([O-])=O.[K+].[K+]
solvent | water | 200 mL | O | H2O
product | 4-(4-bromo-2,6-difluorophenyl)-5-{[(3S)-1-(cyclopropylcarbonyl)-3-pyrrolidinyl]methyl}-2,4-dihydro-3H-1,2,4-triazol-3-one | 360 mg, 13% | BrC1=CC(=C(C(=C1)F)N1C(NN=C1C[C@H]1CN(CC1)C(=O)C1CC1)=O)F | C17H17BrF2N4O2
